Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of IVDU and
hepatitis C who originally presented to ___ with abdominal pain found to have acute hepatitis B and
transferred to ___ for acute liver failure. 

The patient originally presented to the OSH on ___ abdominal
pain located in his upper abdomen in the center. This started
about ___ days prior to his presentation. His initial symptoms
was fatigue stating that he was falling asleep on the train out
of the blue. Started about 10 days ago and was somewhat sudden.
He also noted some associated upper respiratory symptoms such as
congestion, cough and fevers. These were occurring in the 
setting
of living in a "half way" house where others were ill with
similar symptoms. He then noticed that his urine became a dark
cola color and that his eyes became yellow. His abdominal pain
intensified over these 5 days and he presented to the ED. 

He denies any recent IV drug use, no new sexual partners and he
does not share razors with any of his roommates in the half way
house. He denies any other recent hospital admissions lately and
no blood transfusions. He does say that someone in the past 
month
at the program where he is undergoing some rehabilitation post
incarceration was diagnosed with hepatitis B. 

At ___ his hepatitis B antigen was positive with a
hepatitis B core IgM that was positive as well. His hepatitis B
surface ab was negative. His initial LFTs demonstrated an 
AST/ALT
of 799 and ___ respectively, with elevated bilirubin and a 
right
upper quadrant ultrasound with gallbladder wall thickening
without cholecystitis. His INR was elevated to 1.5. 

Based on the evolution of his presentation and concern for acute
liver failure a transfer was requested for an acute transplant
___. 

- Imaging notable for: At ___   

MRCP: 
Impression: Examination shows no evidence of biliary ductal
dilatation.  Pancreatic duct is normal in caliber.  There is
diffuse ascites present within the abdomen.

RUQ US:
The gallbladder is abnormal this is however likely due to
cholangiohepatitis rather than cholecystitis.  Mild gallbladder
wall thickening measuring 1.2 cm maximally.  Gallbladder wall is
mildly hyperemic.

- Patient was given: supportive care with IV fluids, 
pantoprazole 

REVIEW OF SYSTEMS: Positive per HPI, remaining 10 point ROS
reviewed and negative. He denies any chest pain, shortness of
breath, cough, diarrhea but does have some ongoing abdominal 
pain
and nausea.
 
Past Medical History:
Hepatitis C positive 
IVDA - last used IV heroine ___ 
 
Social History:
___
Family History:
No known family history of liver disease, pulmonary disease,
autoimmune disorders.

 
Physical Exam:
Admission Exam:
===========================
VS: Temp 98.6 BP 126/78 HR 77 RR ___ RA  
GENERAL: young male lying in bed with icteric eyes, in no acute
pain or distress 
HEENT: AT/NC, PERRL, icteric sclera, pink conjunctiva, moist
mucous membranes   
NECK: supple, no JVD 
HEART: regular rate and rhythm, no murmurs gallops or rubs   
LUNGS: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi, breathing comfortably without use of accessory muscles  

ABDOMEN: nondistended, tender to palpation in the right lower
quadrant and epigastric area, liver edge is palpable in the 
right
lower quadrant about 4cm below the right costal margin 
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose, no 
asterixis
.
Discharge Exam:
============================
24 HR Data (last updated ___ @ 841)
    Temp: 97.6 (Tm 98.1), BP: 103/61 (100-124/61-70), HR: 53
(53-68), RR: 16 (___), O2 sat: 97% (97-98), O2 delivery: Ra,
Wt: 195.77 lb/88.8 kg  
GENERAL: young male lying in bed with icteric eyes, in no acute
pain or distress. Tattoos covering arms/chest.
HEENT: AT/NC, PERRL, icteric sclera, pink conjunctiva, moist
mucous membranes   
NECK: supple, no JVD 
HEART: regular rate and rhythm, no murmurs gallops or rubs   
LUNGS: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi, breathing comfortably without use of accessory muscles  

ABDOMEN: nondistended, now mild tenderness to palpation in the
right lower and upper quadrants.
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose, no evidence
of asterixis 
SKIN: warm and well perfused, no excoriations or lesions, no
rashes, no spider nevi
 
Pertinent Results:
Admission Labs:
=======================
___ 09:30PM BLOOD WBC-3.8* RBC-4.40* Hgb-12.7* Hct-38.5* 
MCV-88 MCH-28.9 MCHC-33.0 RDW-16.1* RDWSD-51.3* Plt ___
___ 09:30PM BLOOD Neuts-38.4 ___ Monos-13.4* 
Eos-1.3 Baso-0.3 AbsNeut-1.47* AbsLymp-1.78 AbsMono-0.51 
AbsEos-0.05 AbsBaso-0.01
___ 09:30PM BLOOD ___ PTT-37.2* ___
___ 09:30PM BLOOD Plt ___
___ 09:30PM BLOOD Glucose-103* UreaN-6 Creat-0.7 Na-142 
K-4.1 Cl-104 HCO3-29 AnGap-9*
___ 09:30PM BLOOD ALT-1510* AST-1114* AlkPhos-94 
TotBili-8.7*
___ 09:30PM BLOOD Lipase-21
___ 09:30PM BLOOD Albumin-3.2* Calcium-9.1 Phos-3.5 Mg-1.8 
Iron-102
___ 09:30PM BLOOD calTIBC-300 TRF-231

___ 09:30PM BLOOD HBsAg-POS* HBcAb-POS* IgM HBc-POS*
___ 06:37AM BLOOD HCV VL-2.1*
___ 09:30PM BLOOD HBV VL-6.0*
___ 07:04AM BLOOD ___ pO2-130* pCO2-44 pH-7.40 
calTCO2-28 Base XS-2
___ 06:16AM BLOOD VITAMIN C-PND
___ 06:37AM BLOOD HEPATITIS DELTA ANTIBODY-PND
.
Reports:
=======================
Right upper quadrant u/s:
IMPRESSION:  
Patent hepatic vasculature with appropriate waveforms.  
Technically limited ultrasound due to early termination of the 
exam at the patient's request. Trace ascites, small right 
pleural effusion. 
.
Microbiology:
=======================
None. See labs for hepatitis serologies
.
Discharge Labs:
=======================
___ 07:24AM BLOOD WBC-4.3 RBC-4.42* Hgb-13.0* Hct-38.4* 
MCV-87 MCH-29.4 MCHC-33.9 RDW-17.2* RDWSD-53.3* Plt ___
___ 07:24AM BLOOD Plt ___
___ 07:24AM BLOOD ___ PTT-34.8 ___
___ 07:24AM BLOOD Glucose-95 UreaN-10 Creat-0.7 Na-143 
K-4.4 Cl-105 HCO3-26 AnGap-12
___ 07:24AM BLOOD ALT-1328* AST-816* LD(LDH)-301* 
AlkPhos-98 TotBili-9.1*
___ 07:24AM BLOOD Albumin-3.6 Calcium-9.5 Phos-4.3 Mg-2.2 
Iron-203*
___ 07:24AM BLOOD calTIBC-371 Ferritn-376 TRF-285
___ 07:24AM BLOOD HCV VL-PND
___ 06:16AM BLOOD HBV VL-PND

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with a history of IVDU and
hepatitis C who originally presented to ___ with abdominal pain found to have acute hepatitis B and
transferred to ___ for acute liver failure. 

# Acute liver failure: MELD-Na: 20 
Patient presented to the outside hospital with severely elevated 
LFTs, elevated direct bilirubin with signs of jaundice and 
cholestasis as well as an INR of 1.5 up to 1.6 on this 
admission. This is consistent with acute liver
failure. He had a negative ___, and neg smooth muscle ab at the 
outside hospital. Acute ___ also unlikely with his 
Ceruloplasmin level of 31.6ug/dl (<20mg/dl with an elevated free 
serum copper >25ug/dl is more indicative of ___. 
Hemochromotosis was also thought to be unlikely given acute 
nature, though patient with family history. Patient's mental 
status was preserved, no asterixis, and both LFTs and bilirubin 
down-trended during hospitalization (see d/c summary labs). RUQ 
without thrombosis. No tappable ascites (trace hepatic ascites). 
INR improved to 1.2 with vitamin K.

# Acute hepatitis B infection: 
Patient with acute hepatitis B infection based on positive
hepatitis B antigen positive at the outside hospital. Hep Be 
antigen was negative at ___, and Be antibody positive. No 
clear history that would fit this timeline if it is hyper acute 
(first exposure) vs. a latent reactivation of prior exposure 
from his prior IVDU history. No IVDU in the past 3 months per 
history, no
new sexual partners and on blood transfusions. He was HIV 
negative at the outside
hospital (in the paper records) and had hepatitis C 
co-infection. Repeated studies in house. INR has improved 
indicating a good prognosis. Started tenofivir, which patient's 
insurance covers. Hep B viral load initially was 10^6, further 
levels pending. Hep C VL levels pending at discharge. Anti-hep 
Bc IgM positive.

# ASCITES: Patient with ascites seen on imaging from OSH with 
RUQ. However, RUQ during hospitalization here showed trace 
hepatic ascites. Did not appear to have further ascites on exam 
during hospitalization.

# NUTRITION: Nutrition was consulted and felt he was on the cusp 
of requiring an NGT and tube feeds. Sent vitamin C which is 
pending, and started multivitamin with minerals.

# COAGULOPATHY: Elevated INR as noted above on presentation. 
Improved s/p vitamin
K administration

# History of IVDU: prior history of heroine and opiate use
disorder. 
- continued buprenorphine-naloxone 8mg BID 

# History of hepatitis C:
likely from IVDU history. 
- viral load pending at time of discharge

Transitional Issues:
[] please follow up hepatitis D antibody, as well as 3 days of 
hep C viral load, and 2 days of hep B viral loads, pending at 
time of discharge
[] Please check LFTs and INR at next appointment
[] consider further work up for hemochromatosis given family 
history
[] STARTED tenofivir during hospitalization. Please reassess 
need for patient to continue taking this.
# CONTACT: ___ (mother) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Buprenorphine-Naloxone Tablet (8mg-2mg) 1 TAB SL BID 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Tenofovir Disoproxil (Viread) 300 mg PO DAILY 
RX *tenofovir disoproxil fumarate 300 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*1 
3.  Buprenorphine-Naloxone Tablet (8mg-2mg) 1 TAB SL BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Acute hepatitis B infection
Hepatitis C
Hyperbilirubinemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking part in your care during your 
hospitalization.

WHY YOU WERE ADMITTED TO THE HOSPITAL:
You were admitted to the hospital because you had acute 
hepatitis B of your liver. You were transferred from another 
hospital for further evaluation.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- You underwent a number of laboratory and imaging tests, that 
showed you had an injury to your liver
- The tests showed you had active hepatitis B infection
- You were monitored, and your labs improved over time. Some 
labs are still pending at the time of your discharge
- You continue to have liver injury, but it is in the process of 
healing

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?
- Take all of your medications as prescribed (listed below)
- Please set up appointments as listed below. It is important 
that you be seen by Dr. ___ in the next ___ days. It is also 
important that you establish care with a primary care physician 
in the next ___ weeks.
- Please do not drink any alcohol. Alcohol could cause serious 
injury to your liver, even in very small amounts.
- Seek medical attention if you have new or concerning symptoms 
or you develop

It was a pleasure participating in your care. We wish you the 
best!
 - Your ___ Care Team
 
Followup Instructions:
___